* PWR — субсхема из нетлиста KiCad + YAML
.subckt PWR AC_REQ_OUT CANH CANL COND_RAW FB_M1_RAW FB_M2_RAW FB_M3_RAW FB_M4_RAW GND HEAT_FAN_PWM_CTL ILLUM_IN_RAW MOTOR_1_A MOTOR_1_B MOTOR_2_A MOTOR_2_B MOTOR_3_A MOTOR_3_B MOTOR_4_A MOTOR_4_B NTC_HEAT_W SOLAR_RAW VCC_3V3 VCC_5V
  C1 GND GND 470u
  C11 GND GND 100u
  C16 Net-(D4-A) GND 100n
  C17 Net-(D4-A) GND 100n
  C18 Net-(D4-A) GND 100n
  C19 Net-(D4-A) GND 100n
  C2 GND GND 100n
  C20 GND GND 1u
  C3 GND GND 10u
  C4 VCC_5V GND 10u
  D1 Net-(D1-K) Net-(D1-A) MyD
  D2 GND GND MyD
  D4 VCC_5V Net-(D4-A) MyD
  D5 GND Net-(D4-A) MyD
  * J1: Conn_02x16_Odd_Even (Разъём к автомобилю 2x16 (32 конт.)) — не моделируется
  L1 Net-(D1-A) GND 1
  XU6 GND GND VCC_5V MC78M05
  XU7 VCC_5V GND VCC_3V3 AMS1117_33
.ends PWR
